US03987183
Preparation of ethyl 1,2,3,5,6,7-hexahydroimidazo[1,2-a]-pyridine-8-carboxylate ##SPC4##
A solution of 3-carboethoxy-2-piperidone (25 g., 0.15 mole) in methylenechloride (150 ml.) is added dropwise with stirring at 0° C. to a solution of triethyloxonium fluoroborate (29 g.) in methylenechloride (150 ml.). After stirring for six hours, 33 g. of a 50% aqueous potassium carbonate solution is added and the organic layer is separated, dried over anhydrous K2CO3, filtered and concentrated under reduced pressure. Distillation of the concentrate gives 7.1 g. of the lactam ether, b.p. 90°/5 mm. which is dissolved in 100 ml. of ethanol containing 2-bromoethylamine hydrobromide (7.1 g., 0.035 mole). The solution is stirred for two days at room temperature. To this solution is added 2.1 g. of sodium methoxide. The solution is heated under reflux for one hour and then evaporated. The residue is treated with aqueous sodium hydroxide and extracted with chloroform. The chloroform solution is dried over Na2SO4, filtered and the filtrate evaporated. Distillation of the residue gives 3.5 g. of product b.p. 14°-5°/0.2 mm. which crystallizes on standing, m.p. 89°-02° C.

reactant | 3-carboethoxy-2-piperidone | 0.15 mole, 25 g | C(=O)(OCC)C1C(NCCC1)=O | C8H13NO3
reactant | triethyloxonium fluoroborate | 29 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylamine hydrobromide | 0.035 mole, 7.1 g | Br.BrCCN
reactant | sodium methoxide | C[O-].[Na+]
solvent | methylenechloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | ethyl 1,2,3,5,6,7-hexahydroimidazo[1,2-a]-pyridine-8-carboxylate | N1CCN2C1=C(CCC2)C(=O)OCC | C10H16N2O2
